US09035071B2
To a solution of 5-chloro-2-hydroxybenzaldehyde, 2.1 g (13.4 mmol) DMF (50 mL) under N2 atmosphere at RT was added 3-(chloromethyl)pentane (1.92 g 15.6 mmol), K2CO3 (4.5 g, 32.6 mmol) and tetrabutylammonium iodide (0.35 g, 0.9 mmol). The resulting mixture was stirred at 120° C. for 5 hours. The mixture was partitioned between water (80 ml) and EtOAc (80 ml). The organic layer was washed with water (80 ml) followed by brine (80 ml), dried over (Na2SO4), filtered and the volatiles were removed in vacuo. The crude product was purified on silica to yield to yield 2.83 g of 5-Chloro-2-(2-ethyl-butoxy)-benzaldehyde, 10.

reactant | 5-chloro-2-hydroxybenzaldehyde | ClC=1C=CC(=C(C=O)C1)O | C7H5ClO2
reactant | DMF | 13.4 mmol, 50 mL, 2.1 g | CN(C)C=O | C3H7NO
reactant | 3-(chloromethyl)pentane | 15.6 mmol, 1.92 g | ClCC(CC)CC | C6H13Cl
reactant | K2CO3 | 32.6 mmol, 4.5 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | tetrabutylammonium iodide | 0.9 mmol, 0.35 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 5-Chloro-2-(2-ethyl-butoxy)-benzaldehyde | 2.83 g | ClC=1C=CC(=C(C=O)C1)OCC(CC)CC | C13H17ClO2
